US06660744B1
To a solution of cis-3-(4-amino-3-methoxyphenyl)-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (75 mg, 0.17 mmol) and triethylamine (34 mg, 0.34 mmol) in dichloromethane (2.5 ml) was added hydrocinnamoyl chloride (34 mg, 0.20 mmol) in dichloromethane (0.5 ml) dropwise. The solution was stirred at room temperature for 48 hr and a further equivalent of hydrocinnamoyl chloride was then added. The reaction mixture was stirred for a further 24 hr. The resulting mixture was partitioned between dichloromethane (4 ml) and 2N NaOH (1.5 ml) and passed through an Empore extraction cartridge. Evaporation of the solvent gave an oily solid which was purified by silica gel chromatography using 10-20% MeOH/dichloromethane to give cis-N1-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl)-3-phenylpropanamide (12 mg, 13%). 1H NMR (CDCl3): δ H 8.55 (1H, d), 8.36 (1H, s), 7.75 (1H, s), 7.25 (7H, m), 5.51 (2H, bs), 4.91 (1H, m), 3.92 (3H, s), 3.09 (2H, m), 2.76 (2H, m), 2.34-2.59 (9H, m), 2.29 (3H, s), 2.16 (2H, m), 1.85 (4H, m), 1.66 (2H, m). LCMS (Micromass-Column: Pecosphere, C18, 3 um, 33×4.6 mm. Eluents: 0% B/A to 100% B/A in 4.5 min.(B: acetonitrile, A: 50 mM ammonia acetate buffer, PH 4.5), 3.5 mL/min.) Rt=1.92 mins, MH+=569.6.

reactant | cis-3-(4-amino-3-methoxyphenyl)-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.17 mmol, 75 mg | NC1=C(C=C(C=C1)C1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C)OC | C23H32N8O
reactant | triethylamine | 0.34 mmol, 34 mg | C(C)N(CC)CC | C6H15N
reactant | hydrocinnamoyl chloride | 0.20 mmol, 34 mg | C(CCC1=CC=CC=C1)(=O)Cl | C9H9ClO
solvent | dichloromethane | 2.5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
product | cis-N1-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl)-3-phenylpropanamide | 12 mg, 13% | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(CCC2=CC=CC=C2)=O)OC)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C32H40N8O2
